US04885302
(c) 1-(3-Methylbenzoyl)-4-piperidinemethanol
A solution of 12.76 g (0.23 mol) of potassium hydroxide in 75 ml of ethanol and 75 ml of water is added to a solution of 80 g (0.23 mol) of [1-(3-methylbenzoyl)-4-piperidyl]methyl 3-methylbenzoate in 400 ml of ethanol. The mixture is stirred at 20° C. for 3 h, the solvent evaporated off under reduced pressure and the aqueous phase extracted with ethyl acetate. The organic phase is washed with water and then with saturated aqueous sodium chloride solution, and dried over magnesium sulphate. The solvent is evaporated off under reduced pressure and 53 g of alcohol are obtained, this being used without further treatment in the following stage.

reactant | potassium hydroxide | 0.23 mol, 12.76 g | [OH-].[K+]
reactant | [1-(3-methylbenzoyl)-4-piperidyl]methyl 3-methylbenzoate | 0.23 mol, 80 g | CC=1C=C(C(=O)OCC2CCN(CC2)C(C2=CC(=CC=C2)C)=O)C=CC1 | C22H25NO3
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-(3-Methylbenzoyl)-4-piperidinemethanol | CC=1C=C(C(=O)N2CCC(CC2)CO)C=CC1 | C14H19NO2
